US06906067B2
Methanesulfonic acid 2-(5-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-2-phenyl-ethyl ester
2-(2-Hydroxy-1-phenyl-ethyl)-5-methyl-2,3-dihydro-isoindol-1-one (4.72 g, 17.66 mmol) and triethylamine (5.36 g, 53.97 mmol, 7.38 mL) were taken up in anhydrous DCM (50 mL), under argon and cooled to 0° C. Methanesulfonyl chloride (2.22 g, 19.43 mmol, 1.5 mL) was added to the reaction over 10 min. The reaction was stirred for 1 h at 0° C. then allowed to slowly warm to room temp and stirred for 4 h. The reaction was slowly poured into saturated sodium bicarbonate and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with 1N HCl, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was used in the next step without further purification. Yield 5.61 g.

reactant | 2-(2-Hydroxy-1-phenyl-ethyl)-5-methyl-2,3-dihydro-isoindol-1-one | 17.66 mmol, 4.72 g | OCC(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C1)C)=O | C17H17NO2
reactant | triethylamine | 53.97 mmol, 7.38 mL, 5.36 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 19.43 mmol, 1.5 mL, 2.22 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(5-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-2-phenyl-ethyl ester | CC=1C=C2CN(C(C2=CC1)=O)C(COS(=O)(=O)C)C1=CC=CC=C1 | C18H19NO4S
